US08304036B2
25.0 g (0.19 mol) of selenophene are initially introduced in 250 ml of diethyl ether, and 130 ml (0.21 mol, 15% soln. in hexane) of n-BuLi are added. The mixture is warmed under reflux for 25 min and subsequently cooled to −50° C. A solution of 46.7 g (0.21 mol) of 4′-propylbicyclohexyl-4-one in 70 ml of diethyl ether is metered in, and the mixture is slowly warmed to RT. After 18 h, sat. ammonium chloride soln. and 2 N hydrochloric acid are added, and the organic phase is separated off. The aqueous phase is extracted with diethyl ether, and the combined organic phase is washed with 1 N hydrochloric acid and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The residue is purified by column chromatography (SiO2, n-heptane:EtOAc=3:1→2:1). Further purification is carried out by recrystallisation from n-heptane. 4′-Propyl-4-selenophen-2-ylbicyclohexyl-4-ol is obtained as a yellow-brown solid.

reactant | selenophene | 0.19 mol, 25.0 g | [Se]1C=CC=C1 | C4H4Se
reactant | n-BuLi | 0.21 mol, 130 ml | [Li]CCCC
reactant | 4′-propylbicyclohexyl-4-one | 0.21 mol, 46.7 g | C(CC)C1CCC(CC1)C1CCC(CC1)=O | C15H26O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
product | 4′-Propyl-4-selenophen-2-ylbicyclohexyl-4-ol | C(CC)C1CCC(CC1)C1CCC(CC1)(O)C=1[Se]C=CC1 | C19H30OSe
